US07456174B2
5-(1-Isopropyl-pyrrolidin-3-ylamino)-1H-indole-2-carboxylic acid ethyl ester
A mixture of 0.2 g (1 mmol) 5-(pyrrolidin-3-ylamino)-1H-indole-2-carboxylic acid ethyl ester, 0.042 g (1 mmol) acetone and 0.1 ml acetic acid in 10 ml THF was treated after 1 h with 0.233 g (1 mmol) sodium trisacetoxyborohydride at 0° C. The mixture was allowed to react for 39 h at room temperature. The mixture was treated with 5 ml water, 15 ml Na2CO3 aq. and 15 ml ethyl acetate and the aqueous phase was extracted with 40 ml ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified over silica eluting with a gradient formed from DCM/2N NH3 in methanol to yield 0.17 g (74%) of the title compound and light brown solid. MS (m/e): 316.3 (MH+, 100%).

reactant | 5-(pyrrolidin-3-ylamino)-1H-indole-2-carboxylic acid ethyl ester | 1 mmol, 0.2 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1CNCC1 | C15H19N3O2
reactant | acetone | 1 mmol, 0.042 g | CC(=O)C | C3H6O
reactant | sodium trisacetoxyborohydride | 1 mmol, 0.233 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 15 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 5-(1-Isopropyl-pyrrolidin-3-ylamino)-1H-indole-2-carboxylic acid ethyl ester | 0.17 g, 74% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1CN(CC1)C(C)C | C18H25N3O2
